US07951805B2
To a stirred solution of 6-dibenzylamino-3-azabicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (0.800 g, 2.10 mmol) in dichloromethane (20 mL) was added trifluoroacetic acid (2.5 mL). The resulting mixture was stirred at ambient temperature for 3 hours and then quenched with saturated aqueous solution of Na2CO3 (10 mL). The organic phase was separated, washed with water, saturated NaCl, dried over MgSO4 and then concentrated in vacuo. The obtained crude product, (3-azabicyclo[3.1.0]hex-6-yl)dibenzylamine, was used without further purification.

reactant | 6-dibenzylamino-3-azabicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 2.10 mmol, 0.800 g | C(C)(C)(C)OC(=O)N1CC2C(C2C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H30N2O2
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (3-azabicyclo[3.1.0]hex-6-yl)dibenzylamine | C12CNCC2C1N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H22N2
